US06455528B1
(4) Ethyl 4-Cyanomesitylenate
To a solution of ethyl 4-aminomesitylenate (6.6 g) in conc. hydrochloric acid (50 ml) was added a solution of sodium sulfite (2.6 g) in water (15 ml) at 0-5° C. over 30 min. This reaction mixture was stirred at 0° C. for 1 hr. To this reaction mixture was neutralized by adding sodium carbonate and then ethyl acetate (100 ml) was added. To a solution of copper cyanide (6.8 g) in water (100 ml) was added potassium cyanide (18 g) and the mixture was stirred at 0° C. for 30 min. The above-mentioned reaction mixture was added at 0-5° C. and the mixture was stirred at 0° C. for 1 hr. The reaction mixture was extracted with ethyl acetate, washed with aqueous sodium hydrogencarbonate and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated and the obtained residue was recrystallized from ethyl acetate-hexane to give the title compound (5.5 g) as pale-brown crystals.

reactant | ethyl 4-aminomesitylenate | 6.6 g | NC1=C(C=C(C=C1C)C(=O)OCC)C | C11H15NO2
reactant | sodium sulfite | 2.6 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | copper cyanide | 6.8 g | [Cu](C#N)C#N
reactant | potassium cyanide | 18 g | [C-]#N.[K+]
solvent | hydrochloric acid | 50 ml | Cl | ClH
solvent | water | 15 ml | O | H2O
solvent | water | 100 ml | O | H2O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | Ethyl 4-Cyanomesitylenate | 5.5 g | C(#N)C1=C(C=C(C=C1C)C(=O)OCC)C | C12H13NO2
